US07084155B2
AMD9673: Preparation of (1H-benzimidazol-2-ylmethyl)-(4-{[(1H-indol-3-ylmethyl)-amino]-methyl}-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine
Using General Procedure B: 1H-Indole-3-carbaldehyde (73 mg, 0.50 mmol) and N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (200 mg, 0.50 mmol) were stirred at 40° C. in MeOH (5 mL) for 4 hours. NaBH4 (38 mg, 1.0 mmol) was added and the resultant mixture stirred at room temperature for an additional 15 minutes. Purification of the crude white foam by column chromatography on silica gel (200:1:1—EtOAc:MeOH:NH4OH) afforded AMD9673 (80 mg, 31%) as a white foam. 1H NMR (CDCl3) δ 1.59–1.75 (m, 1H), 1.81–2.09 (m, 2H), 2.16–2.30 (m, 1H), 2.64–2.76 (m, 1H), 2.76–2.91 (m, 1H), 3.69 (s, 2H), 3.78 (s, 2H), 3.92–3.98 (m, 3H), 4.04–4.09 (m, 1H), 4.15 (d, 1H, J=16.5 Hz), 7.02–7.07 (m, 2H), 7.11–7.21 (m, 6H), 7.25–7.34 (m, 3H), 7.41 (d, 1H, J=7.2 Hz), 7.54–7.57 (m, 3H), 8.68 (d, 1H, J=3.9 Hz), 8.75 (br s, 1H); 13C NMR (CDCl3) δ 21.74, 23.88, 29.60, 44.05, 48.89, 52.95, 54.06, 60.72, 111.68, 113.70, 119.08, 119.77, 121.97, 122.30, 122.66, 123.71, 127.40, 128.84, 129.07, 135.15, 136.70, 137.66, 138.60 (2 carbons), 147.27, 156.70, 157.79. ES-MS m/z 532.4 (M-C9H8N). Anal. Calcd. for C34H34N6.0.7H2O.0.2CH2Cl2: C, 73.84; H, 6.49; N, 15.11. Found: C, 73.95; H, 6.60; N, 14.81.

reactant | 1H-Indole-3-carbaldehyde | 0.50 mmol, 73 mg | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.50 mmol, 200 mg | N1C(=NC2=C1C=CC=C2)CN(CC2=CC=C(C=C2)CN)C2CCCC=1C=CC=NC21 | C25H27N5
reactant | NaBH4 | 1.0 mmol, 38 mg | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | (1H-benzimidazol-2-ylmethyl)-(4-{[(1H-indol-3-ylmethyl)-amino]-methyl}-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(C=C2)CNCC2=CNC1=CC=CC=C21 | C34H34N6
